US04016209
A solution of 15.6 g. (100 mmoles) of 3-[N-(2-cyanoethyl)-N-formylamino]-propanol in 225 ml. of water is treated with 100 ml. of 1 N hydrochloric acid and reduced over 3.8 g. of platinum at room temperature and 40 psi of hydrogen. The reaction mixture is filtered and concentrated under reduced pressure yielding 3-[N'-formyl-N'-(3-hydroxypropyl)amino]-1-propanaminium chloride.

reactant | 3-[N-(2-cyanoethyl)-N-formylamino]-propanol | 100 mmoles | C(#N)CCN(C=O)CCCO | C7H12N2O2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | platinum | [Pt] | Pt
solvent | water | O | H2O
product | 3-[N'-formyl-N'-(3-hydroxypropyl)amino]-1-propanaminium chloride | [Cl-].C(=O)N(CCCO)CCC[NH3+] | InChI=1S/C7H16N2O2.ClH/c8-3-1-4-9(7-11)5-2-6-10;/h7,10H,1-6,8H2;1H
